US06841562B2
2.7 cm3 of a 1 N aqueous sodium hydroxide solution are added to 480 mg of methyl 4-[3-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylate (ester isomer A) solubilized in 10 cm3 of dioxane. The reaction medium is then heated at 70° C. for 5 h 30 min. The temperature is then allowed to return to 19° C. for 12 hours. Evaporation is carried out under reduced pressure (20 kPa; 45° C.). The residue is taken up in 25 cm3 of distilled water and then extraction is carried out with 25 cm3 of diethyl ether. The aqueous phase is acidified with 2.6 cm3 of a 1 N aqueous hydrochloric acid solution (pH=6) and then this phase is extracted with 3 times 70 cm3 of ethyl acetate. The organic phase is dried under magnesium sulfate, filtered through a sintered glass funnel, and then evaporated under reduced pressure (20 kPa; 45° C.). After having dried under vacuum (50 kPa) for 4 hours, 360 mg of 4-[3-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylic acid, in the form of a pale yellow solid (isomer A), are obtained.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methyl 4-[3-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylate | 480 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)Cl | C26H31ClN2O4S2
solvent | dioxane | 10 cm3 | O1CCOCC1 | C4H8O2
product | 4-[3-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylsulfanyl)ethyl]piperidine-3-carboxylic acid | 360 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)Cl | C25H29ClN2O4S2
